US05260285
5-(trimethylstannyl)toluene
To a solution of 21.5 g (100 mmol) trimethyltin chloride in 500 mL THF at -35° C. was added 113 mL (113 mmol) 1.0M p-tolylmagnesium bromide over 3 minutes. The mixture was allowed to warm to RT and stir for 1 hour after which time was added saturated aqueous ammonium chloride. The mixture was extracted three times with ether. The comined organic material was washed with brine, was dried over MgSO4, was stripped of solvent in vacuo, then was distilled at 0.1 Torr with the title compound distilling between 66°-74° C. The bitolyl remaining in the still pot crystallized upon cooling. The title compound was isolated as a clear, shiny liquid, 25.4 (92% yield).

reactant | trimethyltin chloride | 100 mmol, 21.5 g | C[Sn](C)(C)Cl
reactant | p-tolylmagnesium bromide | 113 mmol, 1.0M, 113 mL | C1(=CC=C(C=C1)[Mg]Br)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 5-(trimethylstannyl)toluene | C[Sn](C=1C=CC=C(C1)C)(C)C | InChI=1S/C7H7.3CH3.Sn/c1-7-5-3-2-4-6-7;;;;/h2-3,5-6H,1H3;3*1H3;
